US06251936B1
(2R)-2-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxy]3-phenyl-propionic acid methyl ester
To a solution of 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol (5.0 g, 12.1 mmol), (S)-2-hydroxy-3-phenylpropionic acid, methyl ester (3.3 g, 18.3 mmol), and triphenylphosphine (4.8 g, 18.3 mmol) in anhydrous benzene (50 mL) at room temperature under nitrogen was added dropwise diethyl azodicarboxylate (2.6 mL, 18.3 mmol) over a period of 25 min. The reaction mixture was heated for 2 h, then stirred at room temperature for 3 days. The crude reaction mixture was adsorbed onto silica gel and chromatographed twice with petroleum ether:ethyl acetate (95:5) to yield the title compound as a white foamy solid (4.5 g, 65%): NMR (DMSO-d6): δ8.18 (d, 1H), 7.64 (ddd, 1H), 7.53-7.43 (m, 2H), 7.38-7.24 (m, 5H), 7.00 (s, 2H), 4.80 (t, 1H), 3.58 (s, 3H), 3.31 (m, 2H), 2.42 (s, 3H), 2.24 (s, 3H), 2.19 (s, 3H), 1.55 (s, 3H); MS(EI): [M+], 1 bromine isotope pattern, 572/574; Anal. Calc. for C32H29BrO3S: C, 67.01; H, 5.10; N, 0.00. Found: C, 66.33; H, 5.09; N, 0.09; Analytical HPLC indicates a major component (94.39%).

reactant | 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol | 12.1 mmol, 5.0 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(C(=C2)C)O)C | C22H19BrOS
reactant | (S)-2-hydroxy-3-phenylpropionic acid, methyl ester | 18.3 mmol, 3.3 g | O[C@H](C(=O)OC)CC1=CC=CC=C1 | C10H12O3
reactant | triphenylphosphine | 18.3 mmol, 4.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 18.3 mmol, 2.6 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | (2R)-2-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxy]3-phenyl-propionic acid methyl ester | 4.5 g, 65% | COC([C@@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)C)=O | C32H29BrO3S
